US07786165B2
3-(4-{[(2′,6′-dimethylbiphenyl-3-yl)methyl]amino}phenyl)propanoic acid
To a solution of methyl 3-(4-{[(2′,6′-dimethylbiphenyl-3-yl)methyl]amino}phenyl)propanoate (0.486 g, 1.30 mmol) in a mixture of methanol (6 mL) and tetrahydrofuran (6 mL) was added 2 M aqueous sodium hydroxide solution (2 mL), and the mixture was stirred at room temperature for 21 hr. Water was added to the reaction mixture, and the mixture was weakly acidified with 10% aqueous citric acid solution and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (30% ethyl acetate/hexane-ethyl acetate) and recrystallized from ethyl acetate-hexane to give the title compound (0.266 g, yield 57%) as colorless needle crystals.

reactant | methyl 3-(4-{[(2′,6′-dimethylbiphenyl-3-yl)methyl]amino}phenyl)propanoate | 1.30 mmol, 0.486 g | CC1=C(C(=CC=C1)C)C1=CC(=CC=C1)CNC1=CC=C(C=C1)CCC(=O)OC | C25H27NO2
reactant | sodium hydroxide | 2 M, 2 mL | [OH-].[Na+]
reactant | Water | O | H2O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 6 mL | CO | CH4O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 3-(4-{[(2′,6′-dimethylbiphenyl-3-yl)methyl]amino}phenyl)propanoic acid | 0.266 g, yield 57% | CC1=C(C(=CC=C1)C)C1=CC(=CC=C1)CNC1=CC=C(C=C1)CCC(=O)O | C24H25NO2
